US04598087
2,6-dichlorophenoxyacetic acid (0.50 g, 2.3 mmol) was treated with thionyl chloride (6 ml) at room temperature for 60 hours. The solution was concentrated in vacuo to give an oil which was dissolved in dichloromethane (2.5 ml) and added dropwise over three minutes to a stirred solution of trans-(±)-N,N'-dimethylcyclohexane-1,2-diamine (0.35 g, 3.1 mmol) in dichloromethane (2.5 ml). After 1.5 hours at room temperature the mixture was filtered and the filtrate treated with diethyl ether until precipitation occurred. The resulting white solid was recrystallized (dichloromethane-diethyl ether) to give trans-(±)-2-(2,6-dichlorophenoxy)-N-methyl-N-[2-(methylamino)cyclohexyl]acetamide monohydrochloride (171 mg, 19%); VmaxC=0 (liquid file) 1655 cm-1.

reactant | 2,6-dichlorophenoxyacetic acid | 2.3 mmol, 0.50 g | ClC1=C(OCC(=O)O)C(=CC=C1)Cl | C8H6Cl2O3
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | trans-(±)-N,N'-dimethylcyclohexane-1,2-diamine | 3.1 mmol, 0.35 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | trans-(±)-2-(2,6-dichlorophenoxy)-N-methyl-N-[2-(methylamino)cyclohexyl]acetamide monohydrochloride | 171 mg, 19% | Cl.ClC1=C(OCC(=O)N([C@H]2[C@@H](CCCC2)NC)C)C(=CC=C1)Cl | InChI=1S/C16H22Cl2N2O2.ClH/c1-19-13-8-3-4-9-14(13)20(2)15(21)10-22-16-11(17)6-5-7-12(16)18;/h5-7,13-14,19H,3-4,8-10H2,1-2H3;1H/t13-,14-;/m1./s1
